US08293916B2
Step 1: 5-Methyl-2-(2-methyl-imidazol-1-yl)-pyridine
2-Methylimidazole (2.0 g, 24 mmol) and 2-Fluoro-5-methylpyridine (5.41 g, 49 mmol) were dissolved in 40 ml dimethyl formamide. Cesium carbonate (23.8 g, 73 mmol) was added, and the reaction mixture was stirred at 100° C. overnight. The reaction mixture was poured into 100 mL water and extracted three times with ethyl acetate (150 mL each). The combined organic extracts were dried with sodium sulfate, filtered and evaporated. The desired compound was obtained as a brown oil (4.0 g, 95%), MS: m/e=174.1 (M+H+).

reactant | 2-Methylimidazole | 24 mmol, 2.0 g | CC=1NC=CN1 | C4H6N2
reactant | 2-Fluoro-5-methylpyridine | 49 mmol, 5.41 g | FC1=NC=C(C=C1)C | C6H6FN
reactant | Cesium carbonate | 73 mmol, 23.8 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | water | 100 mL | O | H2O
solvent | dimethyl formamide | 40 ml | CN(C=O)C | C3H7NO
product | 5-Methyl-2-(2-methyl-imidazol-1-yl)-pyridine | CC=1C=CC(=NC1)N1C(=NC=C1)C | C10H11N3
